2159-12-18 07:09:00 Physician Resident Progress Note
CCU Intern Progress Note
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2159-12-17**] 06:10 PM
 PA CATHETER - START [**2159-12-17**] 06:11 PM
   60 year old male admitted [**2159-12-11**] with CHF flare in setting of fluid
   retention related to chemotx. Hx Amyloid CM, Diastolic & Systolic CHF
   (EF <20%), & new Dx Multiple Myeloma [**11-18**]. Rxed on [**Hospital Ward Name 408**] 3 with Lasix
   gtt & Chlorothiazide with limited results due to borderline
   Hypotension. [**2159-12-17**] Cardiac Cath=Markedly elevated R/L filling
   pressures with moderately elevated PHTN. Cardiac Index markedly
   reduced-1.2. Milrinone started with slight improvement in CI with PAD
   low 30
s. Admitted to CCU post Cardiac Cath on Milrinone & Lasix gtts.
   CI 1.7 on admission
   PAD in low 30
   Fluconazole and levofloxacin
   Allergies:
   Lisinopril
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Milrinone - 0.5 mcg/Kg/min
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-12-18**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 79 (78 - 91) bpm
   BP: 106/71(81) {102/67(78) - 155/96(111)} mmHg
   RR: 18 (11 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    PAP: (53 mmHg) / (31 mmHg)
   CO/CI (Fick): (2.5 L/min) / (1.3 L/min/m2)
   Mixed Venous O2% Sat: 58 - 67
   Total In:
                                                                    386 mL
                                                                    266 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    116 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                    275 mL
                                                                    875 mL
   Urine:
                                                                    275 mL
                                                                    875 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    111 mL
                                                                   -609 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.50/42/91/32/7
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Mood seems depressed,
   with restricted affect
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink. OP
   with mmm, no erythema. Small 4mm shallow ulceration on left side of
   tongue
   Neck: Supple with JVP of 13 cm. no LAD
   CV: RRR, normal S1, S2. No m/r/g. No thrills, lifts.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, CTAB, no crackles, wheezes or rhonchi.
   Abd: + scar on abdomen. Soft, NTND. No HSM or tenderness.
   Ext: No c/c/e.
   Skin: No rashes.
   Labs / Radiology
   180 K/uL
   17.9 g/dL
   170 mg/dL
   1.7 mg/dL
   32 mEq/L
   3.5 mEq/L
   96 mg/dL
   84 mEq/L
   128 mEq/L
   52.1 %
   13.6 K/uL
        [image002.jpg]
                             [**2159-12-17**]  08:20 PM
                             [**2159-12-17**]  08:44 PM
                             [**2159-12-18**]  03:34 AM
   WBC
   13.6
   Hct
   52.1
   Plt
   180
   Cr
   1.9
   1.7
   TCO2
   34
   Glucose
   156
   170
   Other labs: Ca++:9.8 mg/dL, Mg++:2.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 INEFFECTIVE COPING
   60-year-old man with amyloid cardiomyopathy, diastolic and systolic CHF
   (EF 20% [**2159-11-12**]) and newly diagnosed multiple myeloma, s/p bortezimib
   and dexamethasone, presented with CHF flare in the setting of fluid
   retention [**1-14**] chemotx.
   .
   #. Dyspnea/Pump: severe restrictive cardiomyopathy from amyloidosis.
   Very poor prognosis. S/p right heart cath [**2158-12-16**], which showed improved
   CI on milrinone trial. Now to CCU on milrinone gtt and furosemide gtt.
   - continue milrinone at 0.5 mcg/kg/min
   - continue furosemide 10 mg/hr
   - check cardiac index in 1 hour
   - monitor PA closely; if elevated, will consider decreasing milrinone
   - continue metoprolol 50 [**Hospital1 **]; goal HR in the 60s
   - [**Hospital1 **] lytes
   .
   #. CAD: no known CAD & recent cath with clean coronaries. troponin
   elevated in setting of CRI. no changes on EKG, tele.
   - continue metoprolol
   - holding statins and aspirin due to concern about liver and platelet
   toxicity while gettting chemotx.
   .
   # Pneumonia: LLL opacity on CXR on [**2158-12-14**].
   - levoflox 750 mg x 5 days
   .
   # Multiple myeloma: followed by heme/onc. received chemotx [**2159-12-14**] with
   reduced dose of decadron
   - f/u BMT recs
   - continue allopurinol
   - fluconazole started for thrush.
   .
   # Psych - depression/adjustment disorder [**1-14**] medical illness. very flat
   affect.
   - cont citalopram 20
   - sw consult and palliative care consult appreciated
   .
   #. Elevated Cr: Cr 2.2, unclear baseline (? 1.4). Likely from prenal
   azotemia secondary to heart failure as well as concurrent furosemide
   therapy.
   - follow renal labs closely
   - will renally dose medications.
   .
   #. Hyponatremia: Na 127, up from 122. Has been in low 120s during this
   admission. Most likely from ongoing diuresis.
   - monitor lytes [**Hospital1 **]; monitor mental status
   - continue diuretics for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-12-17**] 06:10 PM
   PA Catheter - [**2159-12-17**] 06:11 PM
   20 Gauge - [**2159-12-17**] 06:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: